2173-12-09 06:32:00 Physician Resident Progress Note
Chief Complaint: intentional insulin overdose
   24 Hour Events:
   Finger sticks
   2[**Telephone/Fax (1) 11087**] - 80
   0100 - 83
   0[**Telephone/Fax (1) 11088**] - 95
   psych resident recommended continuing 1:1 supervision pending further
   evaluation
   History obtained from Patient
   Allergies:
   History obtained from PatientZinc Oxide
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Pain: [**6-16**] Moderate
   Pain location: lower back
   Flowsheet Data as of  [**2173-12-9**] 06:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.3
C (97.4
   HR: 81 (81 - 108) bpm
   BP: 136/88(99) {135/74(87) - 162/104(118)} mmHg
   RR: 11 (11 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    800 mL
                                                                  1,142 mL
   PO:
                                                                    500 mL
                                                                    500 mL
   TF:
   IVF:
                                                                    300 mL
                                                                    642 mL
   Blood products:
   Total out:
                                                                    800 mL
                                                                      0 mL
   Urine:
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,142 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%RA
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to):
   person, place, time, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   293 K/uL
   11.9 g/dL
   67 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.9 mEq/L
   11 mg/dL
   107 mEq/L
   141 mEq/L
   35.0 %
   9.9 K/uL
        [image002.jpg]
                            [**2173-12-8**]  09:57 PM
   WBC
   9.9
   Hct
   35.0
   Plt
   293
   Cr
   0.9
   Glucose
   67
   Other labs: Lactic Acid:1.0 mmol/L, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL,
   PO4:4.8 mg/dL
   Assessment and Plan
   28M with DM1 admitted with intentional insulin overdose.
   .
   #Insulin OD:  18 hours after insulin use, no episodes of subjective or
   objective hypoglycemia
   -q1h finger sticks
   -cont. D10 gtt at 100 cc/hr until 4PM, then wean rate and switch to D5
   -transition to SC glargine at bedtime
   -appreciate psych recs
   -cont suicide precautions, 1:1 sitter
   -SW consult
   .
   #MVA c/b chronic pain
   -cont oxycontin
   -avoid IV narcotics
   .
   #Benzo abuse
   -CIWA scale
   .
   # FEN:  D10 gtt, reg diet
   # PPX: SQH
   # ACCESS: L EJ
   # CODE: FULL
   # CONTACT: patient
   # DISPO: Transfer to floor when off D10
   ICU Care
   Nutrition:
   Regular diet
   Glycemic Control:  on D10 gtt
   Lines:
   20 Gauge - [**2173-12-8**] 09:00 PM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: to floor when off D10

2173-12-10 07:46:00 Physician Resident Progress Note
Chief Complaint: Insulin overdose
   24 Hour Events:
   - Unable to get of D10 gtt, still going at 100 cc/hr with low of 57
   overnight
   - 123, 57, 103, 80, 104, 92
   - No psyschiatric contraindication to discharge per Psych
   - SW
   Allergies:
   Zinc Oxide
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2173-12-9**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-12-10**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.2
C (97.2
   HR: 92 (84 - 107) bpm
   BP: 126/72(84) {126/72(84) - 167/104(119)} mmHg
   RR: 12 (11 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,375 mL
                                                                  1,268 mL
   PO:
                                                                  2,900 mL
                                                                    500 mL
   TF:
   IVF:
                                                                  2,400 mL
                                                                    768 mL
   Blood products:
   Total out:
                                                                  6,100 mL
                                                                    800 mL
   Urine:
                                                                  6,100 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -725 mL
                                                                    468 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   293 K/uL
   11.9 g/dL
   67 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.9 mEq/L
   11 mg/dL
   107 mEq/L
   141 mEq/L
   35.0 %
   9.9 K/uL
        [image002.jpg]
                            [**2173-12-8**]  09:57 PM
   WBC
   9.9
   Hct
   35.0
   Plt
   293
   Cr
   0.9
   Glucose
   67
   Other labs: Lactic Acid:1.0 mmol/L, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL,
   PO4:4.8 mg/dL
   Assessment and Plan
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   28M with DM1 admitted with intentional insulin overdose.
   #Insulin OD:  18 hours after insulin use, no episodes of subjective or
   objective hypoglycemia
   -q1h finger sticks
   -cont. D10 gtt at 100 cc/hr, wean to 50  then switch to D5 when able
   -transition to SC glargine at bedtime
   -appreciate psych recs
   -appreciate SW
   .
   #MVA c/b chronic pain
   -cont oxycontin
   -avoid IV narcotics
   #Benzo abuse
   -CIWA scale
   # FEN:  D10 gtt, reg diet
   # PPX: SQH
   # ACCESS: L EJ
   # CODE: FULL
   # CONTACT: patient
   # DISPO: Transfer to floor when off D10 and can space out fingersticks
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2173-12-8**] 09:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2173-12-11 08:18:00 Physician Resident Progress Note
Chief Complaint: insulin OD
   24 Hour Events:
   - FSG dropped to 60 around 12am, refused D50
   - Per psych's recommendation, decreased oxycontin, psych actually
   recommended stopping it all together but we decided to taper it.  Pt
   irate, threatening behavior, security called.  Pt got dressed to leave,
   wanted to go out and smoke with EJ in place.  Was told that he would
   have to sign-out AMA so decided to stay.
   - When sugar in 60s, refused D50 stating that it burns (though has a
   central line)
   - Self-discontinued D10 drip
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   History obtained from [**Hospital 15**] Medical recordsZinc Oxide
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: [**8-18**] SeverePain location: lower back
   Flowsheet Data as of  [**2173-12-11**] 08:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 79 (77 - 110) bpm
   BP: 121/53(70) {104/53(70) - 166/109(117)} mmHg
   RR: 11 (9 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  2,828 mL
                                                                    900 mL
   PO:
                                                                  1,110 mL
                                                                    900 mL
   TF:
   IVF:
                                                                  1,718 mL
   Blood products:
   Total out:
                                                                  4,500 mL
                                                                  1,800 mL
   Urine:
                                                                  4,500 mL
                                                                  1,800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,673 mL
                                                                   -900 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Clubbing
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   267 K/uL
   11.5 g/dL
   137 mg/dL
   0.9 mg/dL
   29 mEq/L
   4.7 mEq/L
   20 mg/dL
   99 mEq/L
   136 mEq/L
   34.8 %
   7.5 K/uL
        [image002.jpg]
                            [**2173-12-8**]  09:57 PM
                            [**2173-12-10**]  01:37 PM
   WBC
   9.9
   7.5
   Hct
   35.0
   34.8
   Plt
   293
   267
   Cr
   0.9
   0.9
   Glucose
   67
   137
   Other labs: Lactic Acid:1.0 mmol/L, Ca++:9.4 mg/dL, Mg++:2.0 mg/dL,
   PO4:4.7 mg/dL
   Assessment and Plan
   28M with DM1 admitted with intentional insulin overdose.
   #Insulin OD:  18 hours after insulin use, no episodes of subjective or
   objective hypoglycemia
   -q1h finger sticks
   -cont. D10 gtt at 100 cc/hr, wean to 50  then switch to D5 when able
   -transition to SC glargine at bedtime
   -appreciate psych recs
   -appreciate SW
   .
   #MVA c/b chronic pain
   -cont oxycontin
   -avoid IV narcotics
   #Benzo abuse
   -CIWA scale
   # FEN:  D10 gtt, reg diet
   # PPX: SQH
   # ACCESS: L EJ
   # CODE: FULL
   # CONTACT: patient
   # DISPO: Transfer to floor when off D10 and can space out fingersticks
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2173-12-8**] 09:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2173-12-11 10:00:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Hypoglycemic overnight. Refused D50.
   Psych said to stop oxycontin so we instituted taper. Patient became
   angry about decreased dose. Tried to leave unit to smoke and then
   threatened to leave AMA.  Patient became increasingly threatening and
   aggressive - security was called.  Eventually calmed down and agreed to
   stay.
   Search of belongings for insulin deferred due to patient behavior.
   No AML.
   Allergies:
   Zinc Oxide
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Nicotine TD, Heparin SQ (refusing), Oxycontin 40mg PO q8h, Tylenol,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: [**8-18**] SeverePain location: Back
   Flowsheet Data as of  [**2173-12-11**] 09:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.4
C (97.6
   HR: 86 (77 - 110) bpm
   BP: 144/87(102) {104/53(70) - 166/109(117)} mmHg
   RR: 9 (9 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  2,828 mL
                                                                    900 mL
   PO:
                                                                  1,110 mL
                                                                    900 mL
   TF:
   IVF:
                                                                  1,718 mL
   Blood products:
   Total out:
                                                                  4,500 mL
                                                                  1,800 mL
   Urine:
                                                                  4,500 mL
                                                                  1,800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,673 mL
                                                                   -900 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   11.5 g/dL
   267 K/uL
   137 mg/dL
   0.9 mg/dL
   29 mEq/L
   4.7 mEq/L
   20 mg/dL
   99 mEq/L
   136 mEq/L
   34.8 %
   7.5 K/uL
        [image002.jpg]
                            [**2173-12-8**]  09:57 PM
                            [**2173-12-10**]  01:37 PM
   WBC
   9.9
   7.5
   Hct
   35.0
   34.8
   Plt
   293
   267
   Cr
   0.9
   0.9
   Glucose
   67
   137
   Other labs: Lactic Acid:1.0 mmol/L, Ca++:9.4 mg/dL, Mg++:2.0 mg/dL,
   PO4:4.7 mg/dL
   Imaging: No new imaging.
   Microbiology: No new micro data.
   Assessment and Plan
   28M with DM1 admitted with intentional insulin overdose.
   #Insulin OD (4pm [**12-8**])
 Multiple recurrent intentional episodes
   consistent with malingering or Munchausen syndrome. Unclear why he has
   persistently low dexis as Lantus should have worn off after 4pm [**12-9**].
    Concern about patient continuing to self-inject insluin.
   Intermittently self-discontinuing D10 gtt. Psych states not suicidal,
   so sitter d/c
ed yesterday.
   - q2h finger sticks
   - Off D10 gtt
   #MVA c/b chronic pain
   - Cont to wean oxycontin to off
   - No IV narcotics
   - Offer toradol
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:  Comments: Off D10 gtt this am.
   Lines:
   20 Gauge - [**2173-12-8**] 09:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Refusing SQ heparin )
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
 Can d/c home later today if dexis stable
   Total time spent: 30 minutes